US04436939
Under nitrogen atmosphere, 55.1 g of magnesium turnings, 800 ml of tetrahydrofuran, and about 0.1 g of several pieces of iodine were put in a flask. With stirring, 2 ml of ethyl bromide was added, whereupon coloration by iodine disappeared. Then, a solution of 361.7 g of p-bromochlorobenzene in 2 liters of tetrahydrofuran was added dropwise at such a speed that the reaction temperature was maintained at 25° C. to 30° C. After the addition, the mixture was further stirred for 1 hour, and cooled to about 20° C. A solution of 256.8 g of prenyl chloride in 800 ml of tetrahydrofuran was added dropwise at 15° C. to 20° C. over the course of about 4 hours. After the addition, the mixture was left to stand overnight at room temperature. Two liters of a 10% by weight aqueous solution of ammonium chloride were added, and the mixture was separated into an organic layer and an aqueous layer. The aqueous layer was extracted with 300 ml of diethyl ether. The diethyl ether layer was combined with the organic layer previously separated, and washed with water, dried, concentrated, and distilled to give 218.3 g (yield 64.0%) of p-chloroprenylbenzene.

reactant | magnesium | 55.1 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | ethyl bromide | 2 ml | C(C)Br | C2H5Br
reactant | p-bromochlorobenzene | 361.7 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | prenyl chloride | 256.8 g | C(C=C(C)C)Cl | C5H9Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 liters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | p-chloroprenylbenzene | 218.3 g, yield 64.0% | ClC1=CC=C(C=C1)CC=C(C)C | C11H13Cl
